US07405305B2
1-(1-tert-Butoxycarbonyl-3-ethyl-piperidin-4-yl)-1H-indole
Dissolve 1H-Indole (10 g, 50.2 mmol) and 2,6-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester (8.62 g, 55.2 mmol) in glacial acetic acid (100 mL), add sodium triacetoxyborohydride (15.96 g, 75.3 mmol) and heat the mixture to 70° C. for 20 h. Cool the reaction mixture in an ice bath and made basic with 5N sodium hydroxide solution. Extract the mixture with methylene chloride, wash with water, brine and dry over sodium sulphate to yield the title compound. Flash chromatography using a gradient of ethyl acetate in hexanes yields the pure product. ESMS m/z (relative intensity) ES(M++H): 329.1.

reactant | 1H-Indole | 50.2 mmol, 10 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 2,6-Dimethyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 55.2 mmol, 8.62 g | C(C)(C)(C)OC(=O)N1C(CC(CC1C)=O)C | C12H21NO3
reactant | sodium triacetoxyborohydride | 75.3 mmol, 15.96 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 1-(1-tert-Butoxycarbonyl-3-ethyl-piperidin-4-yl)-1H-indole | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1C=CC2=CC=CC=C12)CC | C20H28N2O2
